US07829585B2
2,6-Diamino-N-(6-benzyloxy-benzofuran-2-ylmethyl)-nicotinamide
To a dimethylsulfoxide (10 mL) solution of C-(6-benzyloxy-benzofuran-2-yl)-methylamine (300 mg, 1.18 mmol) described in Production Example 1-2-4 were added 2,6-diaminonicotinic acid (181 mg) described in Production Example 1-1-4, 1-hydroxybenzotriazole (319 mg, 2.36 mmol), triethylamine (329 μL, 2.36 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (452 mg, 2.36 mmol) at room temperature, which was stirred at room temperature for 26 hours. To the reaction solution was added water at room temperature followed by extracting with ethyl acetate. After washing the organic layer with water and sat. NaCl, the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under a reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate) to obtain the title compound (227 mg, 60%) as a white solid.

reactant | C-(6-benzyloxy-benzofuran-2-yl)-methylamine | 1.18 mmol, 300 mg | C(C1=CC=CC=C1)OC1=CC2=C(C=C(O2)CN)C=C1 | C16H15NO2
reactant | 2,6-diaminonicotinic acid | 181 mg | NC1=C(C(=O)O)C=CC(=N1)N | C6H7N3O2
reactant | 1-hydroxybenzotriazole | 2.36 mmol, 319 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 2.36 mmol, 329 μL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.36 mmol, 452 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 2,6-Diamino-N-(6-benzyloxy-benzofuran-2-ylmethyl)-nicotinamide | 227 mg, 60% | NC1=C(C(=O)NCC=2OC3=C(C2)C=CC(=C3)OCC3=CC=CC=C3)C=CC(=N1)N | C22H20N4O3
